US07816389B2
The required (4-Fluoro-3-mercapto-phenyl)-methanol is prepared in two steps from 3-Chlorosulfonyl-4-fluoro-benzoic acid following the procedure for the preparation of (3-Mercapto-phenyl)-methanol described in Chemistry Express, Vol 7, No. 11, pp. 865-868).

reactant | 3-Chlorosulfonyl-4-fluoro-benzoic acid | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1F | C7H4ClFO4S
reactant | (3-Mercapto-phenyl)-methanol | SC=1C=C(C=CC1)CO | C7H8OS
product | (4-Fluoro-3-mercapto-phenyl)-methanol | FC1=C(C=C(C=C1)CO)S | C7H7FOS
